US03954790
a. 1,3-Di-(2,3-dihydroxypropyl)-benzimidazolone
1.5 mols of benzimidazolone (201.2 g) are dissolved in 1.5 liters of N,N-dimethylacetamide at 120°C and 2.5 g of lithium chloride are added. 244.2 g (3.3 mols) of glycerol glycide (glycidol) are added dropwise over the course of 2 hours to this solution. The solution is then stirred for a further 5 hours at 135°C. After bringing the solution to room temperature, it is filtered and completely concentrated. The residue is dried for a further 5 hours at 95°C under 0.8 mm Hg. This gives 448 g of a brownish, very viscous liquid (theoretical yield: 423.5 g) which is the crude product still contaminated with a little dimethylacetamide.

reactant | benzimidazolone | 1.5 mols, 201.2 g | N=1C(N=C2C1C=CC=C2)=O | C7H4N2O
reactant | lithium chloride | 2.5 g | [Cl-].[Li+]
reactant | glycerol glycide | 3.3 mols, 244.2 g | C1C(O1)CO | C3H6O2
solvent | N,N-dimethylacetamide | 1.5 liters | CN(C(C)=O)C | C4H9NO
product | 1,3-Di-(2,3-dihydroxypropyl)-benzimidazolone | OC(CN1C(N(C2=C1C=CC=C2)CC(CO)O)=O)CO | C13H18N2O5
